datasets/10k_Mayr_OG.csv
SMILES Labelled
CO[C:63]1=[CH:64][CH:73]=[CH:72][C:61]([O-:10])=[CH:62]1.C[C+:20](C)[C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1>>CO[C:63]1=[CH:64][CH:73]=[CH:72][C:61]([O:10][C:20](C)(C)[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)=[CH:62]1 10=20
"CC(C)(C)[C:23]1=[CH:22][C:21](=[CH:20]/[CH:41]=[CH:42]/C2=CC=C([N+](=O)[O-])C=C2)[CH:32]=[C:33](C(C)(C)C)[C:24]1=[O:25].O=C[C:71]1=[N:72][CH:62]=[CH:61][N-:10]1>>CC(C)(C)[C:23]1=[C:24]([O-:25])[C:33](C(C)(C)C)=[CH:32][C:21]([CH:20]([N:10]2[CH:61]=[CH:62][N:72]=[C:71]2C=O)/[CH:41]=[CH:42]/C2=CC=C([N+](=O)[O-])C=C2)=[CH:22]1 10=20;20,21=21,22;22,23=23,24;24,25=25"
"C1=C[C:72]2=[C:73](C=C1)[C:61](=[O:62])[N:10]=[C:11]2[O-:12].CC[O:34][C:32]([C:21](=[CH:20][C:41]1=[CH:42][CH:43]=[C:44](OC)[CH:45]=[CH:46]1)[C:22](=[O:23])[O:39]CC)=[O:33]>>CC[O:34][C:32]([C:21]([CH:20]([N:10]1[C:11](=[O:12])[C:72]2=[C:73](C=CC=C2)[C:61]1=[O:62])[C:41]1=[CH:42][CH:43]=[C:44](OC)[CH:45]=[CH:46]1)=[C:22]([O-:23])[O:39]CC)=[O:33] 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"C1C[O:33][C:22](=[O:23])[C:21]1=[CH2:20].OCC[NH2:10]>>OCC[NH2+:10][CH2:20][C:21]1=[C:22]([O-:23])[O:33]CC1 10=20;20,21=21,22;22,23=23"
"C1=CC=C([C:22](/[CH:21]=[CH:20]/[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)=[O:23])C=C1.CCCC[Si:63](CCCC)(CCCC)[CH2:62][CH:11]=[CH2:10]>>CCCC[Si:63](CCCC)(CCCC)[CH2:62][CH+:11][CH2:10][CH:20]([CH:21]=[C:22](C1=CC=CC=C1)[O-:23])[C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1 10,11=10,20;20,21=21,22;22,23=23"
"C12C3C4C5C1[Fe:32]23451678C2C1C6[C:31]7([CH+:20][C:41]1=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]1)C28.C[S+:61](C)/[CH:10]=[C:11](/C1=CC=C(Br)C=C1)[O-:12]>>C[S+:61](C)[CH:10]([C:11](C1=CC=C(Br)C=C1)=[O:12])[CH:20]([C:31]12C3C4C5C1[Fe:32]45321678C2C1C6C7C28)[C:41]1=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]1 10,11=10,20;12=11,12"
"Br[CH-:10][S:61](C1=CC=CC=C1)(=[O:62])=[O:72].FC(F)(F)[S:20][N:21]([S:32](C1=CC=CC=C1)(=[O:33])=[O:34])[S:42](C1=CC=CC=C1)(=[O:43])=[O:44]>>C1=CC=C([S:32]([N-:21][S:42](C2=CC=CC=C2)(=[O:43])=[O:44])(=[O:33])=[O:34])C=C1.FC(F)(F)[S:20][CH:10](Br)[S:61](C1=CC=CC=C1)(=[O:62])=[O:72] 10=20;20,21=21"
"CC[O:33][C:22](/[CH:21]=[CH:20]/C)=[O:23].C[N:10](C)C>>CC[O:33][C:22](=[CH:21][CH:20](C)[N+:10](C)(C)C)[O-:23] 10=20;20,21=21,22;22,23=23"
"C[C:81]([CH-:10][N+:71]1=[CH:72][CH:73]=[CH:74][CH:75]=[CH:76]1)=[O:82].C[N:51]1C(=S)[N:52](C)[C:32](=[O:33])[C:21](=[CH:20][C:41]2=[CH:42][C:43]3=[C:44]4N(CCC3)CCC[C:45]4=[CH:46]2)[C:22]1=[O:23]>>C[N:51]1C(=S)[N:52](C)[C:32](=[O:33])[C:21]([CH:20]([CH:10]([N+:71]2=[CH:72][CH:73]=[CH:74][CH:75]=[CH:76]2)[C:81](C)=[O:82])[C:41]2=[CH:42][C:43]3=[C:44]4N(CCC3)CCC[C:45]4=[CH:46]2)=[C:22]1[O-:23] 10=20;20,21=21,22;22,23=23"
"CC(C)(C)[O:33][C:22](/[N:21]=[CH:20]/C1=CC=CC=C1)=[O:23].CC(C)=[N:10]CC1=CC=CC=C1>>CC(C)=[N+:10](CC1=CC=CC=C1)[CH:20](C1=CC=CC=C1)[N:21]=[C:22]([O-:23])[O:33]C(C)(C)C 10=20;20,21=21,22;22,23=23"
"CN(C)[C:34]1=[CH:33][CH:32]=[C:31]([C+:20]2[C:41]3=[C:42]([CH:43]=[CH:44][CH:45]=[CH:46]3)[C:52]3=[C:51]2[CH:56]=[CH:55][CH:54]=[CH:53]3)[CH:36]=[CH:35]1.C[CH:11]=[CH2:10]>>CN(C)[C:34]1=[CH:33][CH:32]=[C:31]([C:20]2([CH2:10][CH+:11]C)[C:41]3=[C:42]([CH:43]=[CH:44][CH:45]=[CH:46]3)[C:52]3=[C:51]2[CH:56]=[CH:55][CH:54]=[CH:53]3)[CH:36]=[CH:35]1 10,11=10,20"
"C[C:11](=[CH2:10])[CH2:62][Sn:63](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1.F[C:43]1=[CH:44][CH:45]=[CH:46][C:41]([C+:20]([C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)[C:51]2=[CH:52][C:53](F)=[CH:54][CH:55]=[CH:56]2)=[CH:42]1>>C[C+:11]([CH2:10][C:20]([C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1)([C:41]1=[CH:42][C:43](F)=[CH:44][CH:45]=[CH:46]1)[C:51]1=[CH:52][C:53](F)=[CH:54][CH:55]=[CH:56]1)[CH2:62][Sn:63](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 10,11=10,20"
"C1CCC[C:20](=[O:21])CC1.CN1CC[N:72]([C:61]([S-:10])=[S:62])CC1>>CN1CC[N:72]([C:61]([S:10][C:20]2([O-:21])CCCCCC2)=[S:62])CC1 10=20;20,21=21"
"C1C[C:20](=[O:21])CCO1.[CH-:10]([C:61]#[N:62])[C:71]1=[CH:72][CH:73]=[C:74]([N+:75](=[O:76])[O-:96])[CH:85]=[CH:84]1>>C1C[C:20]([CH:10]([C:61]#[N:62])[C:71]2=[CH:72][CH:73]=[C:74]([N+:75](=[O:76])[O-:96])[CH:85]=[CH:84]2)([O-:21])CCO1 10=20;20,21=21"
"C1C[CH:32]=[CH:31][C+:20]1[C:41]1=[CH:42][CH:43]=[CH:44][CH:53]=[CH:52]1.[CH:10](=[C:11]=[N-:12])[N+:61]1=[CH:62][CH:63]=[CH:64][CH:73]=[CH:72]1>>C1C[CH:32]=[CH:31][C:20]1([CH:10]([C:11]#[N:12])[N+:61]1=[CH:62][CH:63]=[CH:64][CH:73]=[CH:72]1)[C:41]1=[CH:42][CH:43]=[CH:44][CH:53]=[CH:52]1 10,11=10,20;12=11,12"
CC(C)=[N:10]CC1=CC=CC=C1.CO[C:34]1=[CH:33][CH:32]=[C:31]([C+:20]([C:41]2=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]2)[CH:36]=[CH:35]1>>CO[C:34]1=[CH:33][CH:32]=[C:31]([C:20]([N+:10](CC2=CC=CC=C2)=C(C)C)([C:41]2=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]2)[CH:36]=[CH:35]1 10=20
